US05463005
Perfluoroallyl iodide (CF2CFCF2I) was prepared by transferring 8.5 g of dry potassium iodide, 20 ml of tetraglyme and 42.5 millimoles of perfluoroallyl fluorosulfate by vacuum line to a 100-ml flask. The mixture was warmed to 20° C. and stirred for 12 hours in a dark room. The mixture was then fractionated through -100° C. and -196° C. traps, with the product being collected in the -100° C. trap.

reactant | potassium iodide | 8.5 g | [I-].[K+]
reactant | perfluoroallyl fluorosulfate | 42.5 millimoles | S(=O)(=O)(OC(C(=C(F)F)F)(F)F)F | C3F6O3S
solvent | tetraglyme | 20 ml | COCCOCCOCCOCCOC | C10H22O5
product | Perfluoroallyl iodide | FC(C(=C(F)F)F)(F)I | C3F5I
